US05059597
3-Benzyl-6-oxa-3-azabicyclo[3.1.0]hexane is reacted with 2-(benzylamino)-ethanol, analogously to Example D a), to give trans-1-benzyl-3-[N-benzyl-N-(2-hydroxyethyl)-amino]-4-hydroxypyrrolidine which is then reacted analogously to Example F a) to give 5,8-dibenzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane which is purified by chromatography (silica gel, cyclohexane/tert.-butyl methyl ether/ethyl acetate 1:1:1).

reactant | 3-Benzyl-6-oxa-3-azabicyclo[3.1.0]hexane | C(C1=CC=CC=C1)N1CC2OC2C1 | C11H13NO
reactant | 2-(benzylamino)-ethanol | C(C1=CC=CC=C1)NCCO | C9H13NO
product | trans-1-benzyl-3-[N-benzyl-N-(2-hydroxyethyl)-amino]-4-hydroxypyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)O)N(CCO)CC1=CC=CC=C1 | C20H26N2O2
